US06911548B2
Preparation of 4,4-dimethyl-2-(1-oxo-1,3-dihydroisobenzofuran-5-yl)oxazoline.
To thionyl chloride (130 ml), cooled at −10° C., 2-[[(1-oxo-1,3-dihydroiso-benzofuran-5-yl)carbonyl]amino]-2-methyl-1-propanol (85 g, 0.34 mol) is added portionwise with stirring. The temperature is maintained at −10→−5° C. for 1.5 hours whereafter the cooling is removed and the reaction is stirred overnight at ambient temperature. It is then cooled to 0° C. and tetrahydrofuran (860 mL) is added dropwise keeping the temperature below +8° C. The obtained suspension is kept under stirring for 2 hours at 5° C., and then filtered and the crystals washed with tetrahydrofuran (150 mL). The wet solid is dissolved in deionized water (400 mL) and the pH is adjusted to 9.1 by the addition of 25% aqueous ammonia. The solid is filtered, washed with deionized water and dried for 14 hours at 50° C. under reduced pressure. Yield: 62.8 g (80%) of a white product having a purity (HPLC, peak area)=94%. 1H NMR (DMSO d-6, 500 MHz): 1.31 (6H, s), 4.18 (2H, s), 5.44 (2H, s), 7.9 (1H, d, J=11.3 Hz), 8.01 (1H, d, J=11.3 Hz), 8.12 (1H, s).

reactant | 2-[[(1-oxo-1,3-dihydroiso-benzofuran-5-yl)carbonyl]amino]-2-methyl-1-propanol | 0.34 mol, 85 g | O=C1OCC2=CC(=CC=C12)C(=O)NC(CO)(C)C | C13H15NO4
solvent | thionyl chloride | 130 ml | S(=O)(Cl)Cl | Cl2OS
product | 4,4-dimethyl-2-(1-oxo-1,3-dihydroisobenzofuran-5-yl)oxazoline | CC1(N=C(OC1)C=1C=C2COC(C2=CC1)=O)C | C13H13NO3
